US06489344B1
1-(2,4-dichlorophenyl)-2-chloroethan-1-one(1 mmol) and methylpiperazine (4 mmol) in 8 ml DMF was stirred for 8 h at room temperature. The reaction mixture was concentrated in vacuo and extracted into ethyl acetate and the organic layer was washed with water and dried with sodium sulfate. The residue after concentration in vacuo was purified by column chromatography eluting with 10% methanol in methylene chloride to yield 1-(2,4-dichlorophenyl)-2-(4-methylpiperazinyl)ethane-1-one. The ethanone was taken up in DMF-DMA and heated to 80° C. for 6 h. The reaction mixture was cooled and concentrated in vacuo and the residue containing the enaminone was purified by column chromatography. 1 mmol of the enaminone obtained above, 1 mmol of amino{2-[(6-amino-5-nitro(2-pyridyl))amino]ethyl}carboxamidine hydrochloride and 3 mmol of Cs2CO3 was suspended in DMF and heated to 90° C. for fourteen hours. The reaction was cooled and concentrated in vacuo. The residue was partitioned between water and ethyl acetate and the layers separated. The organic layers were dried with sodium sulfate and after solvent removal were chromatographed on silica gel eluting with 5-10% methanol in methylene chloride to obtain {2-[(6-amino-5-nitro(2-pyridyl))amino]ethyl}[4-(2,4-dichlorophenyl)-5-(4-methylpiperazinyl)pyrimidin-2-yl]amine as a yellow powder after lyophilization.

reactant | 1-(2,4-dichlorophenyl)-2-chloroethan-1-one | 1 mmol | ClC1=C(C=CC(=C1)Cl)C(CCl)=O | C8H5Cl3O
reactant | methylpiperazine | 4 mmol | CN1CCNCC1 | C5H12N2
solvent | DMF | 8 ml | CN(C)C=O | C3H7NO
product | 1-(2,4-dichlorophenyl)-2-(4-methylpiperazinyl)ethane-1-one | ClC1=C(C=CC(=C1)Cl)C(CN1CCN(CC1)C)=O | C13H16Cl2N2O
